US09120822B2
10% Palladium on activated carbon (178 mg, 0.17 mmol, 0.015 eq) is added at room temperature to a stirred solution of 3-acetoxy-5,5-difluoro-6-oxo-5,6-dihydro-quinoline-4-carboxylic acid methyl ester (2.27 g, 11.32 mmol, 1.0 eq) in methanol (50 mL). The resulting mixture is stirred under hydrogen flow (1 bar) at room temperature for 2 hours. The catalyst is then removed by filtration and the solution is concentrated to afford 3-acetoxy-5-fluoro-6-hydroxy-quinoline-4-carboxylic acid methyl ester as a light yellow semisolid (2.03 g, 95% yield) which is directly engaged in the next step.

reactant | 3-acetoxy-5,5-difluoro-6-oxo-5,6-dihydro-quinoline-4-carboxylic acid methyl ester | 11.32 mmol, 2.27 g, 1.0 eq | COC(=O)C1=C(C=NC=2C=CC(C(C12)(F)F)=O)OC(C)=O | C13H9F2NO5
catalyst | Palladium on activated carbon | 0.17 mmol, 178 mg, 0.015 eq | [Pd] | Pd
solvent | methanol | 50 mL | CO | CH4O
product | 3-acetoxy-5-fluoro-6-hydroxy-quinoline-4-carboxylic acid methyl ester | 2.03 g, 95% yield | COC(=O)C1=C(C=NC2=CC=C(C(=C12)F)O)OC(C)=O | C13H10FNO5
